US09403846B2
Step 2. Synthesis of 1-cyclopropylpent-4-en-2-one (C64)
To a solution of 2-cyclopropyl-N-methoxy-N-methylacetamide (C63) (48 g, 0.3 mol) in tetrahydrofuran (900 mL) was added a solution of allylmagnesium bromide (1.0 M in diethyl ether, 1.5 L, 1.5 mol) drop-wise at −60° C. The mixture was stirred at −60° C. for 1 hour, then was quenched with saturated aqueous ammonium chloride solution (120 mL). The reaction was extracted with dichloromethane (2×500 mL), and the organic layers were washed with saturated aqueous sodium chloride solution (500 mL), dried and concentrated in vacuo to give the product as a yellow oil, which was used directly in the following step.

reactant | 2-cyclopropyl-N-methoxy-N-methylacetamide | 0.3 mol, 48 g | C1(CC1)CC(=O)N(C)OC | C7H13NO2
reactant | allylmagnesium bromide | 1.5 mol, 1.0 M, 1.5 L | C(C=C)[Mg]Br
solvent | tetrahydrofuran | 900 mL | O1CCCC1 | C4H8O
product | 1-cyclopropylpent-4-en-2-one | C1(CC1)CC(CC=C)=O | C8H12O
